US07897762B2
Diphosgene (2.4 mL, 20 mmol), N4-ethyl-5-((4-fluoro-3-nitrophenylamino)methyl)-N2-methoxy-N2-methylpyridine-2,4-diamine (5.6 g, 16 mmol) and Et3N (4.3 g, 40 mmol) were combined by the procedure of Example A4 to provide 1-ethyl-3-(4-fluoro-3-nitrophenyl)-7-(methoxy(methyl)amino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (4.8 g, 80% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.14 (m, 1 H), 7.96 (s, 1 H), 7.79 (m, 1 H), 7.61 (m, 1 H), 6.57 (s, 1 H), 4.78 (s, 2 H), 3.88 (d, J=7.2 Hz, 2 H), 3.71 (s, 3 H), 3.15 (s, 3 H), 1.20 (t, J=7.2 Hz, 3H); MS (ESI) m/z: 376.2 [M+H]+.

reactant | Diphosgene | 20 mmol, 2.4 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | N4-ethyl-5-((4-fluoro-3-nitrophenylamino)methyl)-N2-methoxy-N2-methylpyridine-2,4-diamine | 16 mmol, 5.6 g | C(C)NC1=CC(=NC=C1CNC1=CC(=C(C=C1)F)[N+](=O)[O-])N(C)OC | C16H20FN5O3
reactant | Et3N | 40 mmol, 4.3 g | CCN(CC)CC | C6H15N
product | 1-ethyl-3-(4-fluoro-3-nitrophenyl)-7-(methoxy(methyl)amino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 4.8 g, 80% yield | C(C)N1C(N(CC2=C1C=C(N=C2)N(C)OC)C2=CC(=C(C=C2)F)[N+](=O)[O-])=O | C17H18FN5O4
